Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Augmentin / Bactrim
 
Attending: ___.
 
Chief Complaint:
cough, confusion
 
Major Surgical or Invasive Procedure:
None.

 
History of Present Illness:
___ y.o male with h.o positive PPD per OMR, rheumatoid arthritis, 
DM, asthma, HL who presented with cough. Pt reports that he 
developed new cough x 1 day last night and felt dehydrated. He 
reports that he felt well up until that point. He reports that 
the hardwood floors in his home were redone an he attributes the 
cough to this process.  He reports feeling drowsy and confused x 
1 day with chills and fever but denies SOB, CP, palpitations, 
headache, ST, abdominal  pain, nausea, vomiting, diarrhea, 
constipation, dysuria, myualgias, arthralgias. 
.
In the ED, he was given IVF, Tylenol, ibuprofen, levofloxacin. 
He presented with fever and tachycardia. Flu negative. 
Last vitals T 97.9 BP 119/86 HR 98 RR 24 sat 97% on RA 
.
10Pt ROS reviewed and otherwise negative. 
 
Past Medical History:
Rheumatoid arthritis - on methotrexate
Asthma
DM type II
HTN
Chronic sinusitis
Hx of positive PPD 
 
Social History:
___
Family History:
Dad-MI
mom-colon cancer 
 
Physical Exam:
========================
ADMISSION EXAM:
.
GEN: well appearing, NAD
vitals:T 97.4 BP 120/59 HR 95 RR 18 sat 96% on RA
HEENT: ncat eomi anicteric MMM
neck: supple
chest: b/l ae rhonchi L.mid and lower lung
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
ext: no cce 2+pulses
neuro: face symmetric, speech fluent
psych: calm, cooperative 
.
========================
DISCHARGE EXAM:
.
GEN: well appearing, NAD
VS: Tc 97.2 Tm 97.4 BP 116/71 HR 98 RR 16 sat 100% on RA
Ambulatory sats: 97% on RA with max HR 109, no 
dyspnea/palpitations/CP
HEENT: ncat eomi anicteric MMM
neck: supple
chest: mild crackles in bilateral lower lung fields, more 
prominent at bases, trace rhonchi L.mid and lower lung, good air 
movement, no increased WOB or accessory muscle use at rest or 
with ambulation
heart: s1s2 rr no m/r/g
abd: +bs, soft, NT, ND, no guarding or rebound
ext: WWP, no cyanosis or edema, 2+pulses
neuro: face symmetric, speech fluent, AOx3, stable gait
psych: calm, cooperative 
 
Pertinent Results:
___ 09:58PM URINE  HOURS-RANDOM
___ 09:58PM URINE  UHOLD-HOLD
___ 09:58PM URINE  COLOR-Yellow APPEAR-Clear SP ___
___ 09:58PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-30 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-LG
___ 09:58PM URINE  RBC-2 WBC-41* BACTERIA-NONE YEAST-NONE 
EPI-0 TRANS EPI-1
___ 09:58PM URINE  HYALINE-1*
___ 09:58PM URINE  CA OXAL-RARE
___ 09:58PM URINE  MUCOUS-RARE
___ 09:25PM OTHER BODY FLUID  FluAPCR-NEGATIVE 
FluBPCR-NEGATIVE
___ 09:01PM   LACTATE-1.6
___ 08:55PM   GLUCOSE-136* UREA N-20 CREAT-1.0 SODIUM-137 
POTASSIUM-4.6 CHLORIDE-102 TOTAL CO2-24 ANION GAP-16
___ 08:55PM   estGFR-Using this
___ 08:55PM   WBC-9.0 RBC-4.04* HGB-11.9* HCT-36.3* MCV-90 
MCH-29.5 MCHC-32.8 RDW-14.8 RDWSD-47.9*
___ 08:55PM   NEUTS-82.6* LYMPHS-5.7* MONOS-10.8 EOS-0.2* 
BASOS-0.3 IM ___ AbsNeut-7.39* AbsLymp-0.51* AbsMono-0.97* 
AbsEos-0.02* AbsBaso-0.03
___ 08:55PM   PLT COUNT-202
.
CXR:
IMPRESSION:  
Findings compatible with right middle lobe pneumonia. 
.
.
DISCHARGE LABS:
___ 05:53AM BLOOD WBC-9.2 RBC-3.33* Hgb-9.8* Hct-29.9* 
MCV-90 MCH-29.4 MCHC-32.8 RDW-14.9 RDWSD-47.5* Plt ___
___ 05:53AM BLOOD Glucose-105* UreaN-19 Creat-0.9 Na-140 
K-4.1 Cl-111* HCO3-22 AnGap-11
___ 05:53AM BLOOD Phos-2.7 Mg-2.0
.
.
MICROBIO:
___ URINE URINE CULTURE-PENDING INPATIENT 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 
___ BLOOD CULTURE Blood Culture, 
Routine-PENDING EMERGENCY WARD 

 
Brief Hospital Course:
___ y.o male with PMH of positive PPD who presented with cough 
and reports of confusion found to have PNA.
.
# Community acquired bacterial pneumonia with sepsis (fever, 
tachycardia, tachypnea-IN ED). CXR with infiltrate. Flu 
negative. Notably was treated with cipro for chronic sinusitis 
approximately 1 month ago, so there was concern that he might 
have a resistant organism.  However, he responded well to 
levofloxacin (chosen initially in ED because of reported 
Augmentin allergy, however patient notes that this is NOT an 
allergy, he did not have rash, just had mild/moderate diarrhea). 
 Also given IVF with improvement in his tachycardia.  Continued 
levofloxacin on discharge given his good clinical response. On 
day of discharge he had mild tachycardia (HR ___ at rest), but 
ambulatory sats were wnl, ambulatory HR was only 100s, and he 
was feeling well without any cardiopulmonary symptoms.  Advised 
him to seek immediate medical attention of recurrent fevers, 
chills, worsening cough/SOB/DOE, or other concerning symptoms 
due to risk of antibiotic resistance.  Advised follow-up with 
PCP ___ 1 week.
.
# Confusion - resolved quickly with treatment of CAP as above.
.
# Anemia- Asymptomatic. Patient denies any recent evidence of 
bleeding (no hemoptysis, epistaxis, hematemesis, melena, BRBPR, 
or hematuria). Reports he has chronic anemia due to his RA.  Hgb 
9.8 on discharge.  Outpatient follow-up.
.
# Positive UA in ED: large leuk esterase, 41 WBCs, but no 
urinary symptoms to suggest UTI. UCx pending at the time of 
discharge, if UCx grows fluoroquinolone-resistant organisms, 
would advocate for changing abx given his initial presentation 
was consistent with sepsis (by old criteria).
.
# Day of discharge: was feeling well, VSS, afebrile, ambulatory 
sats wnl and no symptoms with ambulation.  Tolerating PO meds.  
Patient comfortable with discharge (wanted to go) and verbalized 
understanding of need for seeking medical attention immediately 
if recurrent fevers, chills, worsening cough/SOB/DOE, or other 
concerning symptoms.  Time in care: 35 minutes in patient care 
and discharge-related activities.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
2. Tamsulosin 0.4 mg PO QHS 
3. MetFORMIN (Glucophage) 500 mg PO BID 
4. Os-Cal 500 + D3 (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
5. Tiotropium Bromide 1 CAP IH DAILY 
6. Vitamin D 1000 UNIT PO DAILY 
7. Cetirizine 10 mg PO DAILY 
8. Naproxen 500 mg PO Q8H:PRN pain 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. Benicar (olmesartan) 20 mg oral DAILY 
11. Methotrexate Dose is Unknown  PO Frequency is Unknown 

 
Discharge Medications:
1. Cetirizine 10 mg PO DAILY 
2. Fluticasone-Salmeterol Diskus (100/50) 1 INH IH BID 
3. Tamsulosin 0.4 mg PO QHS 
4. Tiotropium Bromide 1 CAP IH DAILY 
5. Acetaminophen 325-650 mg PO Q6H:PRN pain 
Do not take more than ___ mg of acetaminophen in any 24 hour 
period. 
6. Guaifenesin-Dextromethorphan 5 mL PO Q6H:PRN cough 
7. Levofloxacin 500 mg PO DAILY Duration: 5 Days 
RX *levofloxacin 500 mg 1 tablet(s) by mouth daily Disp #*5 
Tablet Refills:*0
8. Benicar (olmesartan) 20 mg oral DAILY 
9. Fish Oil (Omega 3) 1000 mg PO BID 
10. MetFORMIN (Glucophage) 500 mg PO BID 
11. Methotrexate 8 tabs PO QWED 
Patient does not know strength of tabs. Thinks are 1 mg each for 
total dose of 8 mg. 
12. Naproxen 500 mg PO Q8H:PRN pain 
13. Os-Cal 500 + D3 (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -200 unit oral DAILY 
14. Vitamin D 1000 UNIT PO DAILY 
15. Tessalon Perles (benzonatate) 100 mg oral TID:PRN cough 
Duration: 3 Days 
RX *benzonatate 100 mg 1 capsule(s) by mouth TID:PRN Disp #*9 
Capsule Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
RML Pneumonia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Mr. ___,

You were admitted to the hospital due to cough and CXR findings 
concerning for pneumonia.  You were started on oral antibiotics 
(levofloxacin) and given IV fluids with improvement. You were 
feeling well on the day of discharge and your vital signs were 
stable.  You are being discharged on the same antibiotic 
(levofloxacin) and will need to take this for 5 more days. 
Please arrange to see your primary care physician ___ 1 week to 
ensure that your symptoms have resolved upon completion of 
antibiotics.  Please seek immediate medical attention if you 
develop fevers, shaking chills, worsening productive cough, 
shortness of breath, shortness of breath with exertion, or 
worsening fatigue.  As we discussed, because of your underlying 
medical conditions (rheumatoid arthritis and diabetes) as well 
as the medication you take for RA (methotrexate), you are at 
higher risk for serious infection.  As a result, if you start 
feeling unwell despite the antibiotics, do not hesitate to seek 
medical attention.

It was a pleasure caring for you while you were in the hospital, 
and we wish you a speedy recovery!

Sincerely,
The ___ Medicine Team
 
Followup Instructions:
___